US04093812
3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde
boiling 5-nitro-2-acetylfuran-methoxycarbonylhydrazone with 1.5 moles of phenylhydrazine and 0.1 mole of glacial acetic acid in ethanol for 3 hours under reflux.

reactant | 5-nitro-2-acetylfuran-methoxycarbonylhydrazone | COC(=O)NN=C(C)C=1OC(=CC1)[N+](=O)[O-] | C8H9N3O5
reactant | phenylhydrazine | 1.5 moles | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic acid | 0.1 mole | C(C)(=O)O | C2H4O2
reactant | ethanol | C(C)O | C2H6O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=CC=CC=C1 | C14H9N3O4
